US08871756B2
7-Bromo-2,3,4,5-tetrahydro-1H-2-benzazepine
To a solution of 7-bromo-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one (35 g, 146 mmol) in 1,2-dimethoxyethane (400 mL) was added a solution of borane dimethyl sulfide complex (1.0 M in tetrahydrofuran, 40 mL) under nitrogen and the resulting mixture was stirred under reflux overnight. The reaction was quenched with methanol, acidified with 2 M hydrochloric acid and then stirred for further 2 hours. The resulting mixture was concentrated in vacuo and the residue was purified by preparative HPLC to give 4.6 g of product. MS obsd. (ESI+) [(M+H)+] 226. 1H NMR (400 MHz, CDCl3) δ ppm 7.21 (d, J=5 Hz, 1 H), 7.15-7.13 (dd, J=2.0, 8.0 Hz, 1 H), 6.89 (d, J=8 Hz, 1 H), 3.79 (s, 2 H), 3.11-3.08 (m, 2 H), 2.82-2.79 (m, 2 H), 2.38 (brs, 1 H), 1.63-1.61 (m, 2 H).

reactant | 7-bromo-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one | 146 mmol, 35 g | BrC=1C=CC2=C(CCC(NC2)=O)C1 | C10H10BrNO
reactant | borane dimethyl sulfide | 1.0 M, 40 mL | CSC.B
solvent | 1,2-dimethoxyethane | 400 mL | COCCOC | C4H10O2
product | 7-Bromo-2,3,4,5-tetrahydro-1H-2-benzazepine | 4.6 g | BrC=1C=CC2=C(CCCNC2)C1 | C10H12BrN
